US04214093
A 1.0-g portion of the phenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate obtained above was catalytically reduced with 5% palladium-carbon in ethyl acetate. After removal of the catalyst by filtration, the ethyl acetate was removed by distillation under reduced pressure. The residue was recrystallized from methanol to obtain 550 mg of phenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate, m.p. 89°-90° C.

reactant | phenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=CC=C1 | C17H15NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
product | phenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate | 550 mg | NC1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=CC=C1 | C17H17NO2
